US08022208B2
With cooling with ice, sodium hydride (60% oil suspension, 50 mg) was added to an N,N-dimethylformamide (10 ml) solution of methyl 4-{2-oxo-1-[2-(3-oxopiperazin-1-yl)ethyl]-1,2-dihydropyridin-3-yl}benzoate (380 mg), followed by stirring for 5 minutes, and then methyl iodide (70 μl) was added. With cooling with ice, the reaction mixture was stirred for 1.5 hours. Water with ice (20 ml) and aqueous saturated sodium hydrogencarbonate solution (10 ml) were added to the reaction mixture, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain methyl 4-{1-[2-(4-methyl-3-oxopiperazin-1-yl)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate (350 mg) as a pale yellow oil.

reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | methyl 4-{2-oxo-1-[2-(3-oxopiperazin-1-yl)ethyl]-1,2-dihydropyridin-3-yl}benzoate | 380 mg | O=C1N(C=CC=C1C1=CC=C(C(=O)OC)C=C1)CCN1CC(NCC1)=O | C19H21N3O4
reactant | methyl iodide | 70 μl | CI | CH3I
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 4-{1-[2-(4-methyl-3-oxopiperazin-1-yl)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate | 350 mg | CN1C(CN(CC1)CCN1C(C(=CC=C1)C1=CC=C(C(=O)OC)C=C1)=O)=O | C20H23N3O4
